US05021431
N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenoxypropyl)-guanidine
0.42 g (1 mmol) of N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(3-phenoxypropyl)-guanidine are heated under reflux in 30 ml of 20% hydrochloric acid for 5 hours. The reaction mixture is worked up by a method analogous to that of

reactant | N-benzoyl-N'-[3-(imidazol-4-yl) propyl]-N"-(3-phenoxypropyl)-guanidine | 1 mmol, 0.42 g | C(C1=CC=CC=C1)(=O)NC(=NCCCOC1=CC=CC=C1)NCCCC=1N=CNC1 | C23H27N5O2
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | N-[3-(Imidazol-4-yl)propyl]-N'-(3-phenoxypropyl)-guanidine | N1C=NC(=C1)CCCNC(=N)NCCCOC1=CC=CC=C1 | C16H23N5O
